US03972925
A solution of 1 g. of N-trifluoroacetyl-L-valine in 5 ml. of thionyl chloride was cooled to 5°C. and stirred for 15 minutes. The excess thionyl chloride was removed under reduced pressure under a stream of dry nitrogen gas, affording N-trifluoroacetyl-L-valyl chloride as an oil.

reactant | N-trifluoroacetyl-L-valine | FC(C(=O)N[C@@H](C(C)C)C(=O)O)(F)F | C7H10F3NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | N-trifluoroacetyl-L-valyl chloride | FC(C(=O)N[C@@H](C(C)C)C(=O)Cl)(F)F | C7H9ClF3NO2
